US08791100B2
1. 1-(4-Chloro-3-methyl-phenyl)-propan-1-one, INT 5
To a solution of 4-chloro-3-methylbenzoic acid (8.31 g, 48.7 mmol) in CH2Cl2 (50 mL) was added DMF (175 μm) and thionyl chloride (35.5 mL, 487 mmol) and the resulting mixture was refluxed for 1 hour. After cooling down, the mixture was evaporated to dryness and taken up in THF (50 mL). The resulting solution was cooled to 0° C. and triethylamine (13.5 mL, 97 mmol) was added followed by N,O-dimethylhydroxyl-amine hydrochloride (5.7 g, 58.4 mmol) and the resulting mixture was stirred at room temperature overnight. The mixture was diluted with CH2Cl2 and washed with 1 M KHSO4, saturated aqueous NaHCO3 and brine. The organic layer was dried over sodium sulfate, filtered and concentrated. The resulting crude Weinreb amide (10.4 g, 48.7 mmol) was taken up in THF (440 mL) and cooled to 0° C. under an argon atmosphere. Ethylmagnesium bromide (1 M in TBME, 97 ml, 97 mmol) was then slowly added and the resulting mixture was stirred for 2 hours at 0° C. The mixture was quenched with a saturated aqueous ammonium chloride solution. The THF was evaporated and the product was extracted with EtOAc. The organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated. The residue was purified by chromatography on silica gel (cyclohexane/EtOAc) to give INT 5.

reactant | 4-chloro-3-methylbenzoic acid | 48.7 mmol, 8.31 g | ClC1=C(C=C(C(=O)O)C=C1)C | C8H7ClO2
reactant | thionyl chloride | 487 mmol, 35.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 97 mmol, 13.5 mL | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxyl-amine hydrochloride | 58.4 mmol, 5.7 g | Cl.CNOC
reactant | Ethylmagnesium bromide | 97 mmol, 1 M, 97 ml | C(C)[Mg]Br
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 440 mL | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(4-Chloro-3-methyl-phenyl)-propan-1-one | ClC1=C(C=C(C=C1)C(CC)=O)C | C10H11ClO
